US20010016207A1
E. 4-[1-(2-Methoxy-ethyl)-piperidin-4-yl]-benzoic acid hydrochloride
4-[1-(2-Methoxy-ethyl)-piperidin-4-yl]-benzoic acid methyl ester (47 mmol) is dissolved in 4N HCl (80 ml) and heated under reflux for 12 hours. After cooling the solvent is evaporated and the residue is suspended in acetone and the solid filtered of, washed with acetone and dried (vacuum). A white powder with mp. >270° C. is obtained.

reactant | 4-[1-(2-Methoxy-ethyl)-piperidin-4-yl]-benzoic acid methyl ester | 47 mmol | COC(C1=CC=C(C=C1)C1CCN(CC1)CCOC)=O | C16H23NO3
reactant | HCl | 4N, 80 ml | Cl | ClH
product | 4-[1-(2-Methoxy-ethyl)-piperidin-4-yl]-benzoic acid hydrochloride | Cl.COCCN1CCC(CC1)C1=CC=C(C(=O)O)C=C1 | InChI=1S/C15H21NO3.ClH/c1-19-11-10-16-8-6-13(7-9-16)12-2-4-14(5-3-12)15(17)18;/h2-5,13H,6-11H2,1H3,(H,17,18);1H
